US08580985B2
The 9-dodecenoic acid methyl ester is then hydrolyzed under basic conditions (reflux with an excess of dilute aqueous NaOH), followed by removal of methanol. The resulting aqueous solution is then treated with an excess of dilute HCl, and the solution is distilled to provide 9-dodecenoic acid. Estolides are then prepared according to the methods set forth in Examples 1 and 2, wherein the oleic acid is replaced with 9-dodecenoic acid.

reactant | 9-dodecenoic acid methyl ester | COC(CCCCCCCC=CCC)=O | C13H24O2
reactant | NaOH | [OH-].[Na+]
product | 9-dodecenoic acid | C(CCCCCCCC=CCC)(=O)O | C12H22O2
